US05580866
A solution of 6-chloro-4,5-dihydro-1,4-benzothiazepin-3(2H)-one (5.33 g, prepared in a similar manner to example 11 of international patent application WO 92/21668) in dry dimethylsulphoxide (60 ml) was added slowly at room temperature to a stirred suspension of sodium hydride (0.6 g) in dimethylsulphoxide (20 ml). After the addition was completed, the mixture was stirred for 30 minutes before adding methyl iodide (6 ml) dropwise. The reaction mixture was stirred at room temperature for one hour, water (160 ml) was added and the mixture was extracted with diethyl ether. The organic layer was washed with water and the solvent was removed by evaporation. Purification of the residue by flash chromatography using dichloromethane/ethyl acetate (9.8:0.2) as eluent gave 6-chloro-4-methyl-4,5-dihydro-1,4-benzothiazepin-3(2H)-one. Yield 3.8 g (m.p. 122°-125° C.).

reactant | 6-chloro-4,5-dihydro-1,4-benzothiazepin-3(2H)-one | ClC1=CC=CC2=C1CNC(CS2)=O | C9H8ClNOS
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | methyl iodide | 6 ml | CI | CH3I
reactant | water | 160 ml | O | H2O
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 6-chloro-4-methyl-4,5-dihydro-1,4-benzothiazepin-3(2H)-one | ClC1=CC=CC2=C1CN(C(CS2)=O)C | C10H10ClNOS
